US07157490B2
4-(3-Bromophenyl)-1,3-dihydro-2H-imidazol-2-one
To a mixture of 3-bromophenacyl bromide (0.5 g, 1.8 mmol), urea (0.32 g, 5.3 mmol), and ammonium acetate (0.40 g, 5.4 mmol) in water (10 mL) was added glacial acetic acid (0.32 g, 5.4 mmol). The reaction mixture was heated at reflux overnight. After cooling to room temperature, the mixture was extracted with three portions of ethyl acetate, and the combined extracts were dried (magnesium sulfate) and concentrated under reduced pressure to give a brown residue which was triturated with diethyl ether to afford the desired product. LC/MS 238.9 and 240.9 (M+1).

reactant | 3-bromophenacyl bromide | 1.8 mmol, 0.5 g | BrC=1C=C(C(CBr)=O)C=CC1 | C8H6Br2O
reactant | urea | 5.3 mmol, 0.32 g | NC(=O)N | CH4N2O
reactant | ammonium acetate | 5.4 mmol, 0.40 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 5.4 mmol, 0.32 g | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | 4-(3-Bromophenyl)-1,3-dihydro-2H-imidazol-2-one | BrC=1C=C(C=CC1)C=1NC(NC1)=O | C9H7BrN2O
